US07736624B2
Succinic anhydride (0.9 g) was added to a solution of podophyllotoxin (207.2 mg, 0.5 mmol) in pyridine (12 mL). The resultant reaction mixture was stirred for 16 h at 25° C. Removal of solvent in vacuo afforded a residue. The crude residue was purified using a silica gel gravity column chromatography (35:7:1 CHCl3:MeOH:NH4OH) to give succinylpodophyllotoxin as white solid (198.5 mg, 80%) 1H NMR (500 MHz, DMSO-d6) δ 2.10 (d, J=5.4 Hz, 1H, H-4), 2.32 (dd, J=12.6, 4.8 Hz, 1H, H-2), 2.53 (m, 1H, H-3), 3.52 (s, 3H, OMe H-4′), 3.65 (dd, J=10.5, 7.5 Hz, 2H, H-11), 3.82 (s, 6H, two OMe groups, H-3′ and H-5′), 4.15 (t, J=7.9 Hz, 2H, CH2), 4.26 (t, J=7.9 Hz, 2H, CH2), 4.51 (d, J=5.4 Hz, 1H, H-1), 5.89 (s, 2H, OCH2), 6.00 (s, 2H, H-2′, H-6′), 6.67 (s, 1H, H-8), 6.94 (s, 1H, H-5), 12.15 (s, 1H, CO2H). Mass (ESI) (M−1) calcd for C26H26N2O11 513.15; found 512.93.

reactant | Succinic anhydride | 0.9 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | podophyllotoxin | 0.5 mmol, 207.2 mg | COC=1C=C(C=C(C1OC)OC)[C@@H]2C=3C=C4C(=CC3[C@@H]([C@@H]5[C@@H]2C(=O)OC5)O)OCO4 | C22H22O8
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | succinylpodophyllotoxin | 198.5 mg, 80% | COC=1C=C(C=C(C1OC)OC)[C@@H]2C=3C=C4C(=CC3[C@@H]([C@@H]5[C@@H]2C(=O)OC5)OC(=O)CCC(=O)O)OCO4 | C26H26O11
